US04543257
Step D: 1-(o-nitrobenzyloxycarbonyl-triphenylphosphoranylmethyl)-4-(methylcarbonylmethyl)-2-azetidinone
Cuprous iodide (0.380 g) is suspended in 10 ml anhydrous ether under N2, in a dry flask and cooled to 0°. Methyl lithium (3.0 ml, 1.3 Molar) is added dropwise and the mixture is stirred at 0° for 5 min to give a yellow suspension. The mixture is then cooled to -50°. 1-(o-nitrobenzyloxycarbonyl-triphenylphosphoranylmethyl)-4-(phenylthiocarbonylmethyl)-2-azetidinone (0.674 g) in 10 ml THF is added dropwise over 5 min. The mixture is stirred at -50° for 5 min and allowed to come to -20° over 20 min and stirred at -20° for 5 min. Saturated NH4Cl solution 5 ml is added and the mixture is diluted with CH2Cl2. Stirred at r.t. for 5 min. The organic phase is separated, dried and evaporated. The residue is chromatographed on silica gel using EtOAc as eluant to give 0.162 g of the product 0.112 g of recovered thio ester.

reactant | Methyl lithium | 1.3 Molar, 3.0 ml | C[Li]
reactant | 1-(o-nitrobenzyloxycarbonyl-triphenylphosphoranylmethyl)-4-(phenylthiocarbonylmethyl)-2-azetidinone | 0.674 g | [N+](=O)([O-])C1=C(COC(=O)C(N2C(CC2CC(=S)C2=CC=CC=C2)=O)P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C38H33N2O5PS
reactant | NH4Cl | 5 ml | [NH4+].[Cl-]
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(o-nitrobenzyloxycarbonyl-triphenylphosphoranylmethyl)-4-(methylcarbonylmethyl)-2-azetidinone | 0.162 g | [N+](=O)([O-])C1=C(COC(=O)C(N2C(CC2CC(=O)C)=O)P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C33H31N2O6P
